US09422331B2
A room temperature solution of tert-butyl(2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate (205 mg, 0.51 mmol) in a 4 M solution of hydrochloric acid in dioxane (2.5 mL) was stirred for 1.5 h. After this time, the reaction mixture was concentrated in vacuo to afford (3S,4S)-3-amino-4-methyl-5-(tetrahydro-2H-pyran-4-carbonyl)-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one hydrochloride (theo. yield 173 mg) which was used without purification.

reactant | tert-butyl(2S,3S)-2-methyl-4-oxo-1-(tetrahydro-2H-pyran-4-carbonyl)-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylcarbamate | 0.51 mmol, 205 mg | C[C@H]1[C@@H](C(NC2=C(N1C(=O)C1CCOCC1)C=CC=C2)=O)NC(OC(C)(C)C)=O | C21H29N3O5
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | (3S,4S)-3-amino-4-methyl-5-(tetrahydro-2H-pyran-4-carbonyl)-4,5-dihydro-1H-benzo[b][1,4]diazepin-2(3H)-one hydrochloride | yield 173 mg | Cl.N[C@H]1[C@@H](N(C2=C(NC1=O)C=CC=C2)C(=O)C2CCOCC2)C | InChI=1S/C16H21N3O3.ClH/c1-10-14(17)15(20)18-12-4-2-3-5-13(12)19(10)16(21)11-6-8-22-9-7-11;/h2-5,10-11,14H,6-9,17H2,1H3,(H,18,20);1H/t10-,14-;/m0./s1
